US07317012B2
Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-(3,3,3-trifluoropropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
A suspension of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (36 mg, 0.1 mmol), 1,1,1-trifluoro-3-iodopropane (67 mg, 0.3 mmol) and solid K2CO3 (42 mg, 0.3 mmol) in anhydrous DMF (0.6 mL) was stirred at room temperature for 2 h. Analysis by HPLC/MS indicated the reaction was not complete. Additional 1,1,1-trifluoro-3-iodopropane (67 mg, 0.3 mmol) was added, the reaction was allowed to continue at room temperature for 16 h, then at 45° C. for 30 min. After cooling to room temperature, the reaction mixture was partitioned between water and EtOAc. The separated EtOAc layer was washed with water, saturated aqueous NaCl, dried (Na2SO4) and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (12 g) eluting with a gradient of EtOAc (0-60%) in hexanes to yield a yellow oily product, which was lyophilized in acetonitrile to afford 38 mg (84%) of the title compound as a yellow powder. LC/MS (method A): retention time=3.69 min, (M+H)+=453. 1H NMR (CDCl3, 400 MHz): δ 7.44 (m, 2H), 7.35 (m, 2H), 7.25 (m, 1H), 7.21 (d,J=8.8 Hz, 2H), 7.05 (d,J=8.8 Hz, 2H), 4.36 (m, 2H), 2.76 (m, 2H).

reactant | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.1 mmol, 36 mg | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(NN2)=O)C2=CC=C(C=C2)Cl | C17H10Cl2N4O
reactant | 1,1,1-trifluoro-3-iodopropane | 0.3 mmol, 67 mg | FC(CCI)(F)F | C3H4F3I
reactant | K2CO3 | 0.3 mmol, 42 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,1,1-trifluoro-3-iodopropane | 0.3 mmol, 67 mg | FC(CCI)(F)F | C3H4F3I
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-2-(3,3,3-trifluoropropyl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 38 mg, 84% | ClC1=C(C=CC=C1)C=1C(=CC=2N(N1)C(N(N2)CCC(F)(F)F)=O)C2=CC=C(C=C2)Cl | C20H13Cl2F3N4O
